US05175166
n-Propyl 1,4,5,6-Tetrahydropyrimidine-5-carboxylate Hydrochloride
1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride (1.5 g, 9.1 mmol) was dissolved in 1-propanol (30 ml). To the mixture was added thionyl chloride (1.1 g, 9.1 mmol) and the solution was refluxed for 22 h. The solvent was evaporated in vacuo to dryness. The residue was crystallized from methanol/THF to give 1.06 g (56%) of white crystals, mp 128°-130° C. 300 MHz nmr indicated product. Microanalysis calc.: C 46.49, H 7.26, N 13.56, found: C 46.21, H 6.96, N 17.41.

reactant | 1,4,5,6-Tetrahydropyrimidine-5-carboxylic acid hydrochloride | 9.1 mmol, 1.5 g | Cl.N1C=NCC(C1)C(=O)O
reactant | thionyl chloride | 9.1 mmol, 1.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-propanol | 30 ml | C(CC)O | C3H8O
product | n-Propyl 1,4,5,6-Tetrahydropyrimidine-5-carboxylate Hydrochloride | 1.06 g, 56% | Cl.N1C=NCC(C1)C(=O)OCCC | InChI=1S/C8H14N2O2.ClH/c1-2-3-12-8(11)7-4-9-6-10-5-7;/h6-7H,2-5H2,1H3,(H,9,10);1H
